US09238631B2
b) (4S)-4-[4-(3-Fluoropropoxy)benzyl]-L-glutamic acid
60 mg (0.11 mmol) of di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[4-(3-fluoropropoxy)-benzyl]-L-glutamate were taken up in 2 mL of trifluoro acetic acid and 1 mL of methoxybenzene and stirred overnight at room temperature. The excess of trifluoro acetic acid was evaporated and the residue was taken up three times in tetrahydrofuran and then evaporated. The resulting oil was chromatographed on C-18 reversed phase silica gel using a water/acetonitrile gradient, the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[4-(3-fluoropropoxy)-benzyl]-L-glutamate | 0.11 mmol, 60 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCCF)C(=O)OC(C)(C)C | C28H44FNO7
reactant | methoxybenzene | 1 mL | COC1=CC=CC=C1 | C7H8O
solvent | trifluoro acetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (4S)-4-[4-(3-Fluoropropoxy)benzyl]-L-glutamic acid | FCCCOC1=CC=C(C[C@@H](C[C@H](N)C(=O)O)C(=O)O)C=C1 | C15H20FNO5
